US06780855B2
1.1 g of 11β-fluoro-7α-{5-[(3,4,4,5,5,6,6,7,7,8,8,9,9,10,10,10-hexadecafluoro-dec-2-enyl)-methyl-amino]-pentyl}-3-hydroxy-estra-1,3,5(10)-trien-17-one is dissolved in 10 ml of methanol and carefully mixed with 148 mg of sodium borohydride. After 15 minutes of stirring at room temperature, the batch is added to saturated common salt solution, extracted with methylene chloride, dried on magnesium sulfate and concentrated by evaporation in a vacuum. After the crude product is chromatographed on silica gel with a hexane-ethyl acetate gradient and an ethyl acetate-acetone gradient, 127 mg of 11β-fluoro-7α-{5-[(3,4,4,5,5,6,6,7,7,8,8,9,9,10,10,10-hexadecafluoro-dec-2-enyl)-methyl-amino]-pentyl}-estra-1,3,5(10)-triene-3,17-diol is obtained as a foam, [α]D=+35° (c=0.5 in CHCl3).

reactant | 11β-fluoro-7α-{5-[(3,4,4,5,5,6,6,7,7,8,8,9,9,10,10,10-hexadecafluoro-dec-2-enyl)-methyl-amino]-pentyl}-3-hydroxy-estra-1,3,5(10)-trien-17-one | 1.1 g | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCN(C)CC=C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F)O | C34H36F17NO2
reactant | sodium borohydride | 148 mg | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 11β-fluoro-7α-{5-[(3,4,4,5,5,6,6,7,7,8,8,9,9,10,10,10-hexadecafluoro-dec-2-enyl)-methyl-amino]-pentyl}-estra-1,3,5(10)-triene-3,17-diol | 127 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)O)CCCCCN(C)CC=C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F)O | C34H38F17NO2
